US04021542
For splitting off the trityl group, in essence the method given by BREDERECK et al.(11) was carried out. 1.5 g (3.2 mmoles) of 3,5-dimethyl-1-(5' -O-trityl-β-D-ribofuranosyl)pyrazole are dissolved in 15 ml of 80% acetic acid and stirred for 10 minutes while being boiled under reflux. On cooling down the red solution, a white precipitate of triphenylcarbinol is produced. After the addition of 20 ml of water, the precipitate is filtered off and the filtrate, for neutralisation, is run over a column with an ion exchanger Amberlite IRA-402 in the OH⃝ form and the substance is eluted with methanol. After removal of the solvent from the yellow solution produced, the remaining yellow sirup is mixed for crystallisation with a few drops of 99% ethanol and allowed to stand for 24 hours at room temperature. Slightly yellow compact crystals are produced which are recrystallised for purification from absolute acetonenitrile. Yield: 480 mg (66%), melting point: 162° and 163° C.; [α] 57822 = 97.2° in methanol (C = 17.1 mg/ml).

reactant | 3,5-dimethyl-1-(5' -O-trityl-β-D-ribofuranosyl)pyrazole | 3.2 mmoles, 1.5 g | CC1=NN(C(=C1)C)[C@H]1[C@H](O)[C@H](O)[C@H](O1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30N2O4
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | triphenylcarbinol | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
